* Z:\media\windows\Users\mattj\Documents\LTspiceXVII\30Vamp.asc
V1 N001 0 30 Rser=8
V2 0 N020 30 Rser=8
C1 N001 0 100nF
C3 N001 0 100nF
C4 0 N020 100nF
C6 0 N020 100nF
C2 N001 0 4.7mF
C5 0 N020 4.7mF
R4 N014 N011 16k
R5 N011 0 2k
R6 N015 N012 16k
R7 N012 0 2k
C7 N016 N015 10µF
Q3 N001 N004 N009 0 Qmje15034
Q4 N020 N017 N019 0 Qmje15035
R14 N009 N013 1 pwr=5
R15 N013 N019 1 pwr=5
R16 N013 0 8 pwr=5
R8 N016 0 10k
Q2 N004 N018 N017 0 2N3904
Q1 N004 N005 N003 0 2N3906
R10 N004 N018 1.5
R11 N018 N017 1k
C8 N004 N017 10µF
R12 N001 N003 510
D1 N001 N002 1N4148
R9 N005 0 10k
R1 N007 N006 10k
R2 N007 N010 10k
R3 N008 N007 100k
D2 N002 N005 1N4148
V3 N006 0 SINE(0 25m 5k) AC 1 Rser=600
V4 N010 0 Rser=600
XU1 0 N007 N001 N020 N008 ADA4700-1
XU2 N008 N011 N001 N020 N014 ADA4700-1
XU3 N014 N012 N001 N020 N015 ADA4700-1
XU4 N016 N013 N001 N020 N017 ADA4700-1
R13 N017 N020 30k
.model D D
.lib C:\users\matthew\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\matthew\My Documents\LTspiceXVII\lib\cmp\standard.bjt
* 1
* 2
* 3
* 1
* 3
* 2
.lib TIP102.LIB
.lib TIP106.LIB
.tran 1m
.lib MJE15034.LIB
.lib MJE15035.LIB
.lib ADI1.lib
.backanno
.end
