* Z:\media\windows\Users\mattj\Documents\LTspiceXVII\WeinBridge.asc
XU1 N006 N005 V+ V- N001 LF411C
C2 N006 0 0.1µF
R3 N001 N005 10k
C3 N005 N008 1µ
R4 N008 0 6.8k
J1 N008 N009 0 J2N5459
D1 N009 N010 1N4148
R5 N009 0 1Meg
C4 0 N009 2.2µ
V1 V+ 0 5
V2 0 V- 5
R6 N001 0 1Meg
R7 N010 N011 10k
R8 N001 N010 10k
R9 V- N011 9k
R10 N011 0 1k
R11 N004 N003 100k
R12 N002 N004 100k
J2 N002 N004 N006 J2SJ109
R13 N007 N003 100k
R14 N006 N007 100k
J3 N006 N007 0 J2SJ109
C1 N001 N002 0.1µF
.model D D
.lib C:\users\matthew\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NJF NJF
.model PJF PJF
.lib C:\users\matthew\My Documents\LTspiceXVII\lib\cmp\standard.jft
.lib LF411C.lib
.tran 1 startup uic
.lib opamp.sub
.backanno
.end
